US06528653B2
Ethyl-4-[(ethoxycarbonyl)methyl]-5-amino-2-thiopheneacrylate (150 mg, 0.53 mmol) was dissolved in dichloromethane (20 ml), treated at room temperature with trimethyaluminium (2M in heptane, 1 ml, 2 mmol) and stirred for 1 hour. The reaction was quenched with water, diluted with ethyl acetate, washed with saturated brine solution and dried over magnesium sulfate. The organic phase was evaporated to dryness and the residue chromatographed on silica gel using hexane/ethyl acetate (2:1) as eluent to give 35 mg of 3-(5-oxo-5,6-dihydro-4H-thieno[2,3-b]pyrrol-2-yl)-acrylic acid ethyl ester as a tan colored solid.

reactant | Ethyl-4-[(ethoxycarbonyl)methyl]-5-amino-2-thiopheneacrylate | 0.53 mmol, 150 mg | C(C)OC(C=CC=1SC(=C(C1)CC(=O)OCC)N)=O | C13H17NO4S
reactant | trimethyaluminium | 2 mmol, 2M, 1 ml | C[Al](C)C
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(5-oxo-5,6-dihydro-4H-thieno[2,3-b]pyrrol-2-yl)-acrylic acid ethyl ester | 35 mg | C(C)OC(C=CC1=CC2=C(NC(C2)=O)S1)=O | C11H11NO3S
